US06824982B1
Synthesis of (1S)-1-Phenylethyl Acetate (15):
In a 25 ml nitrogen-purged flask, with exclusion of air and moisture, 8.28 mmol (1.01 g, 1.00 ml) of (S)-1-phenylethanol (Fluka, 99% ee), 12.4 mmol (1.50 equ., 983 mg, 1.00 ml) of pyridine and 15 ml of dichloromethane are charged and cooled down to 0° C. (ice bath). With stirring, 10.8 mmol (1.30 equ., 1.10 g, 1.02 ml) of acetic anhydride is added dropwise over 10 min. Within a period of 12 h, the mixture is warmed up to room temperature and successively extracted twice each with 20 ml of 1 M aqueous hydrochloric acid solution, saturated sodium hydrogencarbonate solution and saturated sodium chloride solution. The organic phase is dried over magnesium sulfate, separated from the desiccant by filtration and freed from solvent in a rotary evaporator. The crude product was purified by chromatography over silica gel (mobile solvent: hexane:ethyl acetate=9:1). The product fractions are combined and freed from solvent in a rotary evaporator. After drying in an oil-pump vacuum, a clear liquid remains (1.25 g, 7.62 mmol, 92%). Analytics: 1H-NMR (CDCl3, 200 MHz): δ=1.52 (d) 3J=6.6 Hz [3H], 2.06 (s) [3H], 5.94 (q) 3J=6.6 Hz [1H], 7.24-7.38 (m) [5H]; 13C-{1H}-NMR (CDCl3, 50 MHz): δ=21.4 (s), 22.2 (s), 72.3 (s), 126.1 (s), 127.9 (s), 128.5 (s), 141.7 (s), 170.3 (s); MS (EI, 70 eV, pos. ions): m/z (% rel. int.): 164 (25) [M+], 122 (77), 107 (36), 105 (69), 104 (100), 103 (24), 79 (27), 78 (27), 77 (43), 51 (24), 43 (90); EA: C: 72.95% (calc. 73.15%), H: 7.28% (calc. 7.37%); GC (Hewlett Packard 5890, 25 m fused silica, 0.25 inner diameter, 2,6-dimethyl-3-pentyl-β-CD (95% methyl-/5% phenylpolysiloxane), FID, 80° C., 4° C. min−1, 120° C. 0.2 min iso, 0.63 bar hydrogen): 99.8% ee.

reactant | (S)-1-phenylethanol | 8.28 mmol, 1.00 ml, 1.01 g | C1(=CC=CC=C1)[C@H](C)O | C8H10O
reactant | pyridine | 12.4 mmol, 1.00 ml, 983 mg | N1=CC=CC=C1 | C5H5N
reactant | acetic anhydride | 10.8 mmol, 1.02 ml, 1.10 g | C(C)(=O)OC(C)=O | C4H6O3
solvent | dichloromethane | 15 ml | ClCCl | CH2Cl2
product | (1S)-1-Phenylethyl Acetate | C(C)(=O)O[C@@H](C)C1=CC=CC=C1 | C10H12O2
